US06248740B1
Production of 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine hydrochloride
4-(Diphenylmethoxy)-1-piperidinepropanol (487 mg) was dissolved in dried tetrahydrofuran (10 ml), followed by addition of sodium t-butoxide (144 mg). The mixture was refluxed under heating for 40 minutes. After the mixture was cooled, 6-chloro-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine (315 mg) was added thereto. This mixture was refluxed under heating for 4 hours. After the mixture was cooled, ice-water was added thereto, followed by extraction with a mixture of ethyl acetate and tetrahydrofuran (2:1). The extract was washed with an aqueous sodium chloride saturated solution dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica-gel column chromatography and eluted with a mixture of ethyl acetate and methanol (10:1). Fractions containing the objective compound were collected, concentrated and dissolved in ethyl acetate (10 ml), followed by addition of 4N HCl in ethyl acetate solution (0.25 ml) and concentrated under reduced pressure. The resulting crystals were recrystalized from ethanol to yield the title compound (0.334 g).

reactant | 4-(Diphenylmethoxy)-1-piperidinepropanol | 487 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium t-butoxide | 144 mg | CC(C)([O-])C.[Na+]
reactant | 6-chloro-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine | 315 mg | ClC=1C=CC=2N(N1)N=C(N2)C2=CC=CC=C2 | C11H7ClN4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-phenyl[1,2,4]triazolo[1,5-b]pyridazine hydrochloride | 0.334 g | Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)N=C(N2)C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C32H33N5O2.ClH/c1-4-11-25(12-5-1)31(26-13-6-2-7-14-26)39-28-19-22-36(23-20-28)21-10-24-38-30-18-17-29-33-32(35-37(29)34-30)27-15-8-3-9-16-27;/h1-9,11-18,28,31H,10,19-24H2;1H
